US09289427B2
Production of 3-(1-{3-[5-(1-methyl-piperidin-4-ylmethoxy)-pyrimidin-2-yl]-benzyl}-6-oxo-1,6-dihydro-pyridazin-3-yl)-benzonitrile hydrochloride hydrate in its crystalline modification NF2
Approx. 50 mg of 3-(1-{3-[5-(1-Methyl-piperidin-4-ylmethoxy)-pyrimidin-2-yl]-benzyl}-6-oxo-1,6-dihydro-pyridazin-3-yl)-benzonitrile hydrochloride anhydrate in its crystalline modification A1 were spread onto a Petri dish and stored in a closed desiccator over pure DI water (100% relative humidity atmosphere) for 3 weeks.

reactant | 3-(1-{3-[5-(1-Methyl-piperidin-4-ylmethoxy)-pyrimidin-2-yl]-benzyl}-6-oxo-1,6-dihydro-pyridazin-3-yl)-benzonitrile hydrochloride | 50 mg | Cl.CN1CCC(CC1)COC=1C=NC(=NC1)C=1C=C(CN2N=C(C=CC2=O)C=2C=C(C#N)C=CC2)C=CC1
solvent | DI water | O | H2O
product | 3-(1-{3-[5-(1-methyl-piperidin-4-ylmethoxy)-pyrimidin-2-yl]-benzyl}-6-oxo-1,6-dihydro-pyridazin-3-yl)-benzonitrile hydrochloride hydrate | O.Cl.CN1CCC(CC1)COC=1C=NC(=NC1)C=1C=C(CN2N=C(C=CC2=O)C=2C=C(C#N)C=CC2)C=CC1 | InChI=1S/C29H28N6O2.ClH.H2O/c1-34-12-10-21(11-13-34)20-37-26-17-31-29(32-18-26)25-7-3-5-23(15-25)19-35-28(36)9-8-27(33-35)24-6-2-4-22(14-24)16-30;;/h2-9,14-15,17-18,21H,10-13,19-20H2,1H3;1H;1H2
